US09107916B2
A. 2-{5-[(3-chloro-4-fluorobenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (3-chloro-4-fluorophenyl)methanol according to the procedure for the preparation of Example 39, part C. [M+H] Calc'd for C16H10ClFN4O, 329. Found, 329.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (3-chloro-4-fluorophenyl)methanol | ClC=1C=C(C=CC1F)CO | C7H6ClFO
product | 2-{5-[(3-chloro-4-fluorobenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile | ClC=1C=C(COC2=CC=NN2C2=NC=CC(=C2)C#N)C=CC1F | C16H10ClFN4O
